US08809369B2
To a suspension of 60% sodium hydride (535 mg, 13.7 mmol) in N,N-dimethylformamide (2.5 mL) was added cyclopropanesulfonamide (1.65 g, 13.8 mmol) at room temperature. The resulting mixture was stirred at 25° C. for 1 h to afford Solution A41. A solution of 2-[3-(1-cyclopropyl-1H-tetrazol-5-yl)-phenyl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (544.6 mg, 1.4 mmol) and 1,1′-carbonyldiimidazole (442 mg, 2.76 mmol) in N,N-dimethylformamide (2.0 mL) was stirred at 70° C. for 1 h and cooled to room temperature to afford Solution B41. Solution B41 was added to Solution A41 and the resulting mixture was stirred at 25° C. for 1 h. To the reaction mixture was added water (0.5 mL). The mixture was filtered to remove the insoluble solid, and the filtrate was purified by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded cyclopropanesulfonic acid {2-[3-(1-cyclopropyl-1H-tetrazol-5-yl)-phenyl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carbonyl}-amide (206.6 mg, 30%) as a white solid: MS (ESI) M+1=493.2.

reactant | sodium hydride | 13.7 mmol, 535 mg | [H-].[Na+]
reactant | cyclopropanesulfonamide | 13.8 mmol, 1.65 g | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | 2-[3-(1-cyclopropyl-1H-tetrazol-5-yl)-phenyl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 1.4 mmol, 544.6 mg | C1(CC1)N1N=NN=C1C=1C=C(C=CC1)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)O | C22H23N5O2
reactant | 1,1′-carbonyldiimidazole | 2.76 mmol, 442 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
solvent | water | 0.5 mL | O | H2O
product | cyclopropanesulfonic acid {2-[3-(1-cyclopropyl-1H-tetrazol-5-yl)-phenyl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carbonyl}-amide | 206.6 mg, 30% | C1(CC1)N1N=NN=C1C=1C=C(C=CC1)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)NS(=O)(=O)C1CC1 | C25H28N6O3S
